US07994176B2
3-Cyano-2-piperidin-1-yl-propionic acid ethyl ester
Treat a −78° C. solution of ethyl 1-piperidine acetate (20.0 g, 0.117 mol) in THF (200 mL) with a 2M solution of lithium diisopropylamide in heptane/THF/ethylbenzene (70.1 mL, 0.140 mol) and stir at −78° C. for 20 minutes under N2. Treat the reaction with bromoacetonitrile (21.00 g, 0.175 mol) and stir at −78° C. for 15 minutes. Warm the reaction to room temperature and stir 4 hours. Quench the reaction into saturated ammonium chloride. Dilute the reaction with ethyl acetate and wash with water. Dry the organic layer (Na2SO4), remove the solvent in vacuo to afford crude product, and purify with a 0 to 20% ethyl acetate in hexanes gradient to afford 6.74 g (27%) of the titled product. Rf=0.41 (3/1 hexanes/ethyl acetate). ES MS (m/z): 211 (M+1).

reactant | ethyl 1-piperidine acetate | 0.117 mol, 20.0 g | N1(CCCCC1)CC(=O)OCC | C9H17NO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane THF ethylbenzene | 0.140 mol, 70.1 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | bromoacetonitrile | 0.175 mol, 21.00 g | BrCC#N | C2H2BrN
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Cyano-2-piperidin-1-yl-propionic acid ethyl ester | 6.74 g, 27% | C(C)OC(C(CC#N)N1CCCCC1)=O | C11H18N2O2
